US07060844B2
To a stirred suspension of 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (300 mg, 1.0 mmol) in THF (15 ml), was added bromoacetic anhydride (311 mg, 1.2 mmol). The mixture was stirred for 1 hour and was poured into water (150 ml). The solid was filtered, washed with water and dried under vacuum to give 2-bromo-N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide as a yellow solid (396 mg, 94%).

reactant | 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 1.0 mmol, 300 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | bromoacetic anhydride | 1.2 mmol, 311 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | water | 150 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-bromo-N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 396 mg, 94% | BrCC(=O)NC=1C=C2C(OCC2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C18H12BrClN2O3
